US04249012
4-Chloroacetamidothiazole
A solution of 2-bromo-4-chloroacetamidothiazole (4 g) and sodium acetate (1.15 g) in methanol (100 ml) was hydrogenated at atmospheric pressure over 10% Pd/C catalyst (1 g) until theoretical uptake of hydrogen had occurred. The catalyst was removed by filtration and washed with methanol and the extracts evaporated to dryness in vacuo. The residue was recrystallised twice from carbon tetrachloride to give the title compound (1.6 g) m.p. 115°-119° C. (Found: C, 33.7; H, 2.9; N, 15.5. C5H5ClN2OS requires C, 34.0; H, 2.9; N, 15.8%).

reactant | 2-bromo-4-chloroacetamidothiazole | 4 g | BrC=1SC=C(N1)NC(CCl)=O | C5H4BrClN2OS
reactant | sodium acetate | 1.15 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-Chloroacetamidothiazole | 1.6 g, 15.8% | ClCC(=O)NC=1N=CSC1 | C5H5ClN2OS
